US09108977B2
To a solution of 200 mg of t-butyl 1-(chlorocarbonyl)-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate in 2 ml of pyridine was added 140 μl of phenethyl alcohol, followed by stirring at 100° C. for 5.5 hours. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel chromatography (elution solvent: HEX-EtOAc) to obtain 68 mg of 8-t-butyl 1-(2-phenylethyl) 3,4,6,7,9,10-hexahydro-1H-azepino[4,5-g]quinoline-1,8(2H)-dicarboxylate as a yellow viscous substance.

reactant | t-butyl 1-(chlorocarbonyl)-1,2,3,4,6,7,9,10-octahydro-8H-azepino[4,5-g]quinoline-8-carboxylate | 200 mg | ClC(=O)N1CCCC2=CC3=C(C=C12)CCN(CC3)C(=O)OC(C)(C)C | C19H25ClN2O3
reactant | phenethyl alcohol | 140 μl | C(CC1=CC=CC=C1)O | C8H10O
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 8-t-butyl 1-(2-phenylethyl) 3,4,6,7,9,10-hexahydro-1H-azepino[4,5-g]quinoline-1,8(2H)-dicarboxylate | 68 mg | N1(CCCC2=CC3=C(C=C12)CCN(CC3)C(=O)OC(C)(C)C)C(=O)OCCC3=CC=CC=C3 | C27H34N2O4
